US06191289B1
First, 26.9 mmol of 2-cyano-4′-methyl-1,1′-biphenyl was dissolved in 150 ml of ethanol, and 270 mmol of hydrazine and 77.7 nmuol of 28% methylate were added thereto, followed by keeping at 50° C. for 48 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in 100 ml of ethanol, and 55 mmol of sodium nitrite and 110 mmol of concentrated hydrochloric acid were added to the solution at 0° C. After keeping at 0-5° C. for 2 hours, the reaction mixture was concentrated to give 2-(tetrazol-5-yl)-4′-methyl-1, I′-biphenyl. Yield, 46%

reactant | 2-cyano-4′-methyl-1,1′-biphenyl | 26.9 mmol | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)C | C14H11N
reactant | hydrazine | 270 mmol | NN | H4N2
reactant | sodium nitrite | 55 mmol | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 110 mmol | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
